US04656214
Preparation of Ethylene Glycol Benzoate Neononanoate
Following the procedure of Example 3, 443 gms of ethylene glycol mononeononanoate prepared as in Example 2C and 222 gms of benzoic acid was added to the reaction flask together with 1.5 gms of tetraisodecyl titanate as catalyst. No ortho-xylene entrainer was used in this Example. With continuous stirring the reaction mixture was heated from room temperature to 221° C. at a rate of about 5° to 6° C. per minute for a total heating time of about 150 minutes, employing an initial reaction vessel pressure of about 500 mmHg. During the course of the reaction, the reaction vessel was further depressured to maintain continuous liquid reflux (with the final reaction pressure being about 100 mmHg). After about 150 minutes of reaction, corresponding to a benzoic acid conversion of about 99.2 mol %, ethylene glycol benzoate neononanoate was recovered and analyzed by gas chromatography, and was found to have the following characteristics:

reactant | ethylene glycol mononeononanoate | 443 gms | C(CCCCC(C)(C)C)(=O)OCCO | C11H22O3
reactant | benzoic acid | 222 gms | C(C1=CC=CC=C1)(=O)O | C7H6O2
catalyst | tetraisodecyl titanate | 1.5 gms | CC(C)CCCCCCC[O-].CC(C)CCCCCCC[O-].CC(C)CCCCCCC[O-].CC(C)CCCCCCC[O-].[Ti+4]
solvent | ortho-xylene | C=1(C(=CC=CC1)C)C | C8H10
product | Ethylene Glycol Benzoate Neononanoate | C(CCCCC(C)(C)C)(=O)OCCOC(C1=CC=CC=C1)=O | C18H26O4
